US04436748
To 15 g of (2,3-dichloro-4-methoxyphenyl)(2',6'-difluorobenzyl)sulfide in 140 ml of dry tetrahydrofuran at -75° is added dropwise 25 ml of 2.2 M n-butyllithium over a period of 20 mins, maintaining the temperature below -65°. After stirring at this temperature for 1 hr, 10 ml of dried methyl formate is added dropwise, maintaining the temperature below -60°. The reaction mixture is poured onto 100 ml of 10 N hydrochloric acid. The mixture is extracted with ethyl ether. The ether extract is dried over anhydrous magnesium sulfate, filtered and the solvent is removed to give an oil. The oil is heated to 120° and 240 g of warm polyphosphoric acid is added. The reaction mixture is warmed at 130° for 20 mins. The mixture is allowed to cool and to the mixture is added 400 ml of ice water. The aqueous solution is extracted with ethyl ether. The ether extract is washed, dried over anhydrous magnesium sulfate, filtered and the solvent is removed to give an oil. Crystallization from hexane, followed by recrystallization from acetone-hexane, gives 7 g of 6,7-dichloro-2-(2',6'-difluorophenyl)-5-methoxybenzo[b]thiophene.

reactant | (2,3-dichloro-4-methoxyphenyl)(2',6'-difluorobenzyl)sulfide | 15 g | ClC1=C(C=CC(=C1Cl)OC)SCC1=C(C=CC=C1F)F | C14H10Cl2F2OS
reactant | n-butyllithium | 2.2 M, 25 ml | C(CCC)[Li]
reactant | methyl formate | 10 ml | C(=O)OC | C2H4O2
reactant | hydrochloric acid | 10 N, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | 6,7-dichloro-2-(2',6'-difluorophenyl)-5-methoxybenzo[b]thiophene | 7 g | ClC=1C(=CC2=C(SC(=C2)C2=C(C=CC=C2F)F)C1Cl)OC | C15H8Cl2F2OS
